US05441969
2-Amino-1-[3-(5-indolyl)phenyl]benzimidazole was prepared from 3-(2-amino-1-benzimidazolyl)-phenyl-1,3,2-dioxaborinane and 5-bromoindole according to method A. mp 120°-123° C.

reactant | 3-(2-amino-1-benzimidazolyl)-phenyl-1,3,2-dioxaborinane | NC1=NC2=C(N1C=1C=C(C=CC1)B1OCCCO1)C=CC=C2 | C16H16BN3O2
reactant | 5-bromoindole | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
product | 2-Amino-1-[3-(5-indolyl)phenyl]benzimidazole | NC1=NC2=C(N1C1=CC(=CC=C1)C=1C=C3C=CNC3=CC1)C=CC=C2 | C21H16N4
